US06310203B1
3-(5-Methylisoxazol-3-yl)-6-(1,2,4-triazol-3-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine
To a solution of 3-(5-methylisoxazol-3-yl)-6-[2-{[2-(trimethylsilyl)ethoxy]methyl}-1,2,4-triazolyl]methyloxy-1,2,4-triazolo-[3,4-a]phthalazine (1.20 g, 2.5 mmol) in ethanol (20 ml) was added 2N hydrochloric acid (40 ml) at room temperature. The mixture was heated at 60° C. for 5 h, saturated potassium carbonate solution wad added and the solvent evaporated in vacuo. The solid was triturated with ethanol, filtered and the filtrate evaporated in vacuo. The residue was flash chromatographed on silica gel, eluting with 4% methanol/dichloromethane, to give the title-product (140 mg, 16%), mp 260-262° C.; 1H NMR (360 MHz, d6-DMSO) δ 2.56 (3H, s, me), 5.75 (2H, s, CH2), 7.24 (1H, s, Ar—H), 8.00 (1H, t, J=8.1 Hz, Ar—H), 8.14 (1H, t, J=7.7 Hz, Ar—H), 8.26 (1H, d, J=8.0 Hz, Ar—H), 8.60 (1H, br s, NH), 8.65 (1H, d, J=7.4 Hz, Ar—H); MS (ES+) m/e 349 [MH]+.

reactant | 3-(5-methylisoxazol-3-yl)-6-[2-{[2-(trimethylsilyl)ethoxy]methyl}-1,2,4-triazolyl]methyloxy-1,2,4-triazolo-[3,4-a]phthalazine | 2.5 mmol, 1.20 g | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC=2N(N=CN2)COCC[Si](C)(C)C | C22H26N8O3Si
reactant | hydrochloric acid | 2N, 40 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(5-Methylisoxazol-3-yl)-6-(1,2,4-triazol-3-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine | 140 mg, 16% | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NNC=N2 | C16H12N8O2
